US04385066
N-(3-(4-Carbomethoxyphenyl)propyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
The title compound was prepared as in Example 1a from 3-trifluoromethylphenylglyoxal (1.99 g) and 3-(4-carbomethoxyphenyl) propylamine (1.9 g) and crystallised from hexane m.p. 86°-96°. τ(CDCl3) 7.9-8.35 (2H,m), 7.55 (2H, broad, replaceable by D2O), 7.0-7.5 (6H,m), 6.15 (3H,s), 5.3 (1H,m), 2.85 (2H,d,J=8 Hz), 2.3-2.6 (4H,m), 2.05 (2H,d,J=8 Hz).

reactant | 3-trifluoromethylphenylglyoxal | 1.99 g | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | 3-(4-carbomethoxyphenyl) propylamine | 1.9 g | C(=O)(OC)C1=CC=C(C=C1)CCCN | C11H15NO2
product | N-(3-(4-Carbomethoxyphenyl)propyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CCCNCC(C1=CC(=CC=C1)C(F)(F)F)O | C20H22F3NO3
